US05610192
Synthesis of Bis(2-hydroxy-1-naphthylmethylene) carbohydrazide (197A)
Following the general procedure of Example 1, condensation of 2-hydroxy-1-naphthaldehyde and carbohydrazide gave a white solid (97%): mp>285° C. (dec); 1H NMR d 11.90 (br s, 2 H); 11.05 (s, 2 H), 9.23 (s, 2 H), 8.33 (d, 2 H, J=8.4 Hz), 7.88 (d, 2 H, J=9.0 Hz), 7.87 (d, 2 H, J=7.8 Hz), 7.59 (t, 2 H, J=7.6 Hz), 7.38 (t, 2 H, J=7.5 Hz), 7.22 (d, 2 H, J=9.0 Hz); 13C NMR d 156.71, 151.56, 143.24, 131.88, 131.50, 128.72, 127.87, 127.56, 123.35, 121.58, 118.61, 109.40; MS (CI) m/e 399.0 (M +H)+; Anal. (C23H18N4O3 0.3 H2O) C, H, N.

reactant | 2-hydroxy-1-naphthaldehyde | OC1=C(C2=CC=CC=C2C=C1)C=O | C11H8O2
reactant | carbohydrazide | NNC(=O)NN | CH6N4O
product | Bis(2-hydroxy-1-naphthylmethylene) carbohydrazide | 97% | OC1=C(C2=CC=CC=C2C=C1)C=NNC(NN=CC1=C(C=CC2=CC=CC=C12)O)=O | C23H18N4O3
